US05683997
The reaction of 3.55 g of 3-amino-1-(p-tert-butylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one with 2.5 g of (R)-alpha-[[(4-nitrophenyl)sulfonyl]oxy]-4-cyclohexylbutyric acid ethyl ester and 1.03 ml of N-methylmorpholine yields the two diastereoisomeric esters 3-(S)-[(1-(S)-ethoxycarbonyl-3-cyclohexyl-propyl)-amino]-1-(p-tert-butylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one and 3-(R)-[(1-(S)-ethoxycarbonyl-3-cyclohexyl-propyl)-amino]-1-(p-tert-butylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one, Rf values (eluant ethyl acetate/hexane 1:2) non-polar component 0.42, polar component 0.26.

reactant | 3-amino-1-(p-tert-butylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one | 3.55 g | NC1C(N(C2=C(CC1)C=CC=C2)CC2=CC=C(C=C2)C(C)(C)C)=O | C21H26N2O
reactant | (R)-alpha-[[(4-nitrophenyl)sulfonyl]oxy]-4-cyclohexylbutyric acid ethyl ester | 2.5 g | C(C)OC([C@@H](CCC1CCCCC1)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H25NO7S
reactant | N-methylmorpholine | 1.03 ml | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(R)-[(1-(S)-ethoxycarbonyl-3-cyclohexyl-propyl)-amino]-1-(p-tert-butylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one | C(C)OC(=O)[C@H](CCC1CCCCC1)N[C@H]1C(N(C2=C(CC1)C=CC=C2)CC2=CC=C(C=C2)C(C)(C)C)=O | C33H46N2O3
